US05434154
1-[2-(Methylsulfonyl)ethyl]-4-nitrobenzene
This compound was prepared in a similar manner from 1-(2-bromoethyl)-4-nitrobenzene and sodium methanesulfinate.

reactant | 1-(2-bromoethyl)-4-nitrobenzene | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | sodium methanesulfinate | CS(=O)[O-].[Na+]
product | 1-[2-(Methylsulfonyl)ethyl]-4-nitrobenzene | CS(=O)(=O)CCC1=CC=C(C=C1)[N+](=O)[O-] | C9H11NO4S
